US07589232B2
Step b) Formation of 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-[(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)methyl]hexanamide and NaOH 5N in the presence of EtOH as a yellow powder (79%). 1H NMR (CDCl3, 300 MHz) δ 10.85 (s, 1H), 7.90-6.95 (m, 11H), 4.64-4.43 (m, 4H), 2.64 (t, J=7.5 Hz, 2H), 2.48 (m, 2H), 1.75 (m, 2H), 1.62 (m, 2H), 1.33 (m, 6H), 0.94 (t, J=7.2 Hz, 3H), 0.88 (m, 3H). M− (ESI): 510.3; M+ (ESI): 512.4. HPLC, Rt: 5.6 min (Purity: 99%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-[(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)methyl]hexanamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C36H41NO4
reactant | NaOH | 5N | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-{[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]methyl}-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCCCC)=O)CC=2C=CC(=C(C(=O)O)C2)O)C=C1 | C33H37NO4
